US04562199
A mixture of ethyl 2-chloro-4-iodobenzoate (0.92 g, 2.96 mmol), triphenylphosphine (0.014 g, 0.0534 mmol), triethylamine (0.58 g, 5.73 mmol), 1-allylimidazole (1.2 g, 11.1 mmol), and palladium acetate (0.007 g) in acetonitrile (0.6 ml) was stirred and heated at 120° for 6 h in a steel bomb. The reaction mixture was cooled and concentrated to give an oily solid. The solid was purified by `flash` chromatography to give 1-[3-(3-chloro-4-ethoxycarbonylphenyl)prop-2-enyl]imidazole as a white solid.

reactant | ethyl 2-chloro-4-iodobenzoate | 2.96 mmol, 0.92 g | ClC1=C(C(=O)OCC)C=CC(=C1)I | C9H8ClIO2
reactant | triphenylphosphine | 0.0534 mmol, 0.014 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 5.73 mmol, 0.58 g | C(C)N(CC)CC | C6H15N
reactant | 1-allylimidazole | 11.1 mmol, 1.2 g | C(C=C)N1C=NC=C1 | C6H8N2
solvent | acetonitrile | 0.6 ml | C(C)#N | C2H3N
catalyst | palladium acetate | 0.007 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-[3-(3-chloro-4-ethoxycarbonylphenyl)prop-2-enyl]imidazole | ClC=1C=C(C=CC1C(=O)OCC)C=CCN1C=NC=C1 | C15H15ClN2O2
